US05994378
A mixture of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxyindole-3-acetate (0.35 g), ethyl 5-bromopentanoate (0.232 ml) and potassium carbonate (0.31 g) in methylethylketone (5 ml) was stirred at 80° C. for 18 hours. After an insoluble mass was filtered off, the filtrate was concentrated under reduced pressure. The resulting syrup was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and n-hexane. The fractions containing the objective compound were combined and concentrated under reduced pressure. The residue was crystallized with n-hexane and the crystals were collected by filtration and washed with n-hexane to give methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-methyl}-5-(4-ethoxycarbonylbutoxy)indole-3-acetate (0.23 g).

reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-hydroxyindole-3-acetate | 0.35 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)O)CC(=O)OC | C27H26N2O4S
reactant | ethyl 5-bromopentanoate | 0.232 ml | BrCCCCC(=O)OCC | C7H13BrO2
reactant | potassium carbonate | 0.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | 5 ml | CC(=O)CC | C4H8O
product | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]-methyl}-5-(4-ethoxycarbonylbutoxy)indole-3-acetate | 0.23 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCCCCC(=O)OCC)CC(=O)OC | C34H38N2O6S
